US07417057B2
Step B Synthesis of 3-(3-Methylphenylthio)propanoic Acid (i) as an Intermediate
A solution of 22.0 grams (0.105 mole) of methyl 3-(3-methylphenylthio)propanoate in 200 mL of methanol was stirred, and 40 mL of aqueous 10% potassium hydroxide was added. Upon completion of addition, the reaction mixture was stirred at ambient temperature during an 18 hour period. GC analysis of the reaction mixture indicated that the reaction was not complete. An additional 30 mL of the aqueous 10% potassium hydroxide was added, and the reaction mixture was stirred for an additional three hours. After this time, 100 mL of water was added to the reaction mixture and the methanol was removed under reduced pressure. The residue was washed with three 50 mL portions of diethyl ether. The cooled residue was then acidified with aqueous 10% hydrochloric acid, and extracted with 100 mL of diethyl ether. The extract was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to an oily residue. The residue was stirred with hexane and cooled, resulting in a solid material being formed. The solid was collected by filtration and dried, yielding 17.0 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | methyl 3-(3-methylphenylthio)propanoate | 0.105 mole, 22.0 grams | CC=1C=C(C=CC1)SCCC(=O)OC | C11H14O2S
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 100 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | 3-(3-Methylphenylthio)propanoic Acid | 17.0 grams | CC=1C=C(C=CC1)SCCC(=O)O | C10H12O2S
